US08420655B2
5-{2-[2-(5-Amino-[1,2,4]oxadiazol-3-yl)-phenyl]-1-tert-butyl-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a stirred solution of ammonium hydroxide (0.02 mL, 0.39 mmol) in DMF (2 mL) at room temperature is added 5-{1-tert-butyl-2-[2-(5-trichloromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine (395 mg, 0.26 mmol). The reaction mixture is stirred at room temperature for 0.5 hours. Water is added to the reaction mixture and the product is extracted into EtOAc (3×) and the combined organics are then dried (Na2SO4), filtered, and concentrated. Purification via flash chromatography (10 g silica gel, 3-6% MeOH/CH2Cl2) affords the title compound (20.6 mg, 17%). LCMS (ESMS): m/z 427.29 (M++1)

reactant | ammonium hydroxide | 0.39 mmol, 0.02 mL | [OH-].[NH4+]
reactant | 5-{1-tert-butyl-2-[2-(5-trichloromethyl-[1,2,4]oxadiazol-3-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 0.26 mmol, 395 mg | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)C2=NOC(=N2)C(Cl)(Cl)Cl | C24H20Cl3N7O
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-{2-[2-(5-Amino-[1,2,4]oxadiazol-3-yl)-phenyl]-1-tert-butyl-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 20.6 mg, 17% | NC1=NC(=NO1)C1=C(C=CC=C1)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)C=2C=NC(=NC2)N | C23H22N8O
